US09416132B2
To a 0° C. solution of trans-benzyl 3-(dibenzylamino)cyclopentanecarboxylate (2.8 g, 7 mmol) in THF (250 mL) was added dropwise MeMgBr (23 mL, 70 mmol). After the addition, the reaction mixture was stirred at room temperature overnight. TLC (PE) showed the reaction was complete. The mixture was cooled and poured into sat. NH4Cl (300 mL) and extracted with EtOAc (100 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to give crude 2-(trans-3-(dibenzylamino)cyclopentyl)propan-2-ol (3 g, 133%) as a yellow liquid.

reactant | trans-benzyl 3-(dibenzylamino)cyclopentanecarboxylate | 7 mmol, 2.8 g | C(C1=CC=CC=C1)N([C@@H]1C[C@H](CC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C27H29NO2
reactant | MeMgBr | 70 mmol, 23 mL | C[Mg+].[Br-]
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-(trans-3-(dibenzylamino)cyclopentyl)propan-2-ol | 3 g, 133% | C(C1=CC=CC=C1)N([C@@H]1C[C@H](CC1)C(C)(C)O)CC1=CC=CC=C1 | C22H29NO
